US07902187B2
6-chloro-2-(6-chloro-1H-benzo[d]imidazol-1-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one.
Pale yellow solid. 46% yield on 2 steps (reduction and benzimidazole closing), on 2.47 mmol scale. Synthesized from 2-(2-amino-5-chlorophenylamino)-6-chloro-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one. 1H NMR (300 MHz, CDCl3+CD3OD) δ, ppm: 9.08 (s, 1H), 8.61 (s, 1H), 7.74 (d, 1H), 7.40 (d, 1H), 4.65-4.58 (m, 1H), 4.23-4.19 (m, 2H), 3.62 (appt, 2H), 2.82-2.76 (m, 2H), 1.93 (br d, 2H); MS (EI) m/z 405.2 (MH)+.

reactant | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | 2-(2-amino-5-chlorophenylamino)-6-chloro-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | NC1=C(C=C(C=C1)Cl)NC1=NC(=C2NC(N(C2=N1)C1CCOCC1)=O)Cl | C16H16Cl2N6O2
product | 6-chloro-2-(6-chloro-1H-benzo[d]imidazol-1-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | 46% yield | ClC1=C2NC(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)Cl)C2CCOCC2)=O | C17H14Cl2N6O2
